US07595327B2
According to the procedure of Example 53, Step 2, using methyl (1S,2R)-2-{benzyl[(1R)-1-phenylethyl]amino}-1-methylcyclopentanecarboxylate (1.025 g, 2.92 mmol), 4.4% HCO2H/MeOH (30 mL) and 10% Pd/C (1.058 g), methyl (1S,2R)-2-amino -1-methylcyclopentanecarboxylate (527 mg, 2.72 mmol, 93%) was obtained as a colorless solid. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.29 (s, 3H) 1.56-1.62 (m, 1H) 1.64-1.76 (m, 3H) 2.07-2.13 (m, 1H) 2.15-2.22 (m, 1H) 3.24-3.31 (m, 1H) 3.64-3.71 (m, 3H) 8.18 (s, 3H).

reactant | methyl (1S,2R)-2-{benzyl[(1R)-1-phenylethyl]amino}-1-methylcyclopentanecarboxylate | 2.92 mmol, 1.025 g | C(C1=CC=CC=C1)N([C@H]1[C@](CCC1)(C(=O)OC)C)[C@H](C)C1=CC=CC=C1 | C23H29NO2
catalyst | Pd/C | 1.058 g | [Pd] | Pd
solvent | HCO2H MeOH | 30 mL | C(=O)O.CO
product | methyl (1S,2R)-2-amino -1-methylcyclopentanecarboxylate | 2.72 mmol, 527 mg, 93% | N[C@H]1[C@](CCC1)(C(=O)OC)C | C8H15NO2
